US08114886B2
N-[2-(acetylamino)ethyl]-5-[(2,5-difluorophenyl)[(4-fluorophenyl)sulfonyl]methyl]-4-methylpyridine-2-carboxamide
To a solution of tert-butyl[2-[[[5-[(2,5-difluorophenyl) [(4-fluorophenyl)sulfonyl]meth yl]-4-methylpyridin-2-yl]carbonyl]amino]ethyl]carbamate (90 mg, 0.160 mmol) in methylene chloride (5 ml), trifluoroacetic acid (2 ml) was added, and the resulting mixture was stirred for 2.5 hours at room temperature. The reaction solution was concentrated under reduced pressure, and methylene chloride and a 0.5 N aqueous sodium hydroxide were added thereto. The organic layer was separated, dried over anhydrous sodium sulfate, and filtered, and then the filtrate was concentrated under reduced pressure. The resulting concentration residue was dissolved in methylene chloride (5 ml), and acetic anhydride (23 μl, 0.240 mmol), triethylamine (26 μl, 0.240 mmol) and a catalytic amount of 4-dimethylaminopyridine were added thereto. The reaction solution was stirred for 20 hours at room temperature, and was concentrated under reduced pressure. The resulting concentration residue was subjected to silica gel column chromatography, and the fraction obtained from an elution with methanol:methylene chloride (=1:20) was concentrated under reduced pressure, to obtain the title compound (79 mg, 0.156 mmol, 98%) as an amorphous substance.

reactant | tert-butyl[2-[[[5-[(2,5-difluorophenyl) [(4-fluorophenyl)sulfonyl]meth yl]-4-methylpyridin-2-yl]carbonyl]amino]ethyl]carbamate | 0.160 mmol, 90 mg | C(C)(C)(C)OC(NCCNC(=O)C1=NC=C(C(=C1)C)C(S(=O)(=O)C1=CC=C(C=C1)F)C1=C(C=CC(=C1)F)F)=O | C27H28F3N3O5S
reactant | acetic anhydride | 0.240 mmol, 23 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.240 mmol, 26 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[2-(acetylamino)ethyl]-5-[(2,5-difluorophenyl)[(4-fluorophenyl)sulfonyl]methyl]-4-methylpyridine-2-carboxamide | 0.156 mmol, 79 mg, 98% | C(C)(=O)NCCNC(=O)C1=NC=C(C(=C1)C)C(S(=O)(=O)C1=CC=C(C=C1)F)C1=C(C=CC(=C1)F)F | C24H22F3N3O4S
